US04774247
2-Ethoxy-5-pyridylmethyl chloride hydrochloride (9.6 g) in an aqueous solution was added dropwise to the mixed solution of trimethylenediamine (11.1 g) and 20% aqueous solution (22 g) of sodium hydroxide at 0°-5° C. After the reaction mixture was stirred at room temperature for some time, water and excess trimethylenediamine were distilled off under reduced pressure from the contents and after the inorganic salts were filtered off, the produced viscous and oily substance was evaporated in vacuum to give N-(2-ethoxy-5-pyridylmethyl)trimethylenediamine (6.3 g).

reactant | 2-Ethoxy-5-pyridylmethyl chloride hydrochloride | 9.6 g | Cl.C(C)OC1=NC=C(C=C1)CCl
reactant | trimethylenediamine | 11.1 g | NCCCN | C3H10N2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | N-(2-ethoxy-5-pyridylmethyl)trimethylenediamine | 6.3 g | C(C)OC1=NC=C(C=C1)CNCCCN | C11H19N3O
